US04946839
307 mg (884 μmol) of cis-N-benzylazetidine-2,4-dicarboxylic acid di-tert-butyl ester in 25 ml of methanol is hydrogenated in a Parr shaker over 100 mg of 20% Pd(OH)2 /C (containing 31% water) under 4 atm of hydrogen for 7.5 h. The catalyst is filtered off through a double paper filter and thoroughly washed with methanol. Evaporation and filtration over SiO2 (EtOAc/hexanes 1:1) affords 149 mg (66%) of cis-azetidine-2,4-dicarboxylic acid di-tert.butyl ester as a yellowish oil which solidifies spontaneously. mp. 47°-48.5° C. 1H NMR (CDCl3): δ4.04 (dd, 2H, J =5.5, 9), 3.2 (br., 1H), 2.97 (dt, 1H, J =12 (d), 9 (t)), 2.38 (dt, 1H, J =12 (d), 5.5 (t)), 1.48 (s, 18H). IR (neat): 3328, 2979, 2934, 1731, 1480, 1458, 1394, 1369, 1280, 1257, 1156, 1103, 1048, 1031, 892, 846, 734 cm-1.

reactant | cis-N-benzylazetidine-2,4-dicarboxylic acid di-tert-butyl ester | 884 μmol, 307 mg | C(C)(C)(C)OC(=O)[C@@H]1N([C@@H](C1)C(=O)OC(C)(C)C)CC1=CC=CC=C1 | C20H29NO4
reactant | water | O | H2O
reactant | hydrogen | [H][H] | H2
solvent | methanol | 25 ml | CO | CH4O
catalyst | Pd(OH)2 | 100 mg | [OH-].[OH-].[Pd+2]
product | cis-azetidine-2,4-dicarboxylic acid di-tert.butyl ester | 149 mg, 66% | C(C)(C)(C)OC(=O)[C@@H]1N[C@@H](C1)C(=O)OC(C)(C)C | C13H23NO4
